US05428019
2-Mercapto-4-Methylpentanoic Acid (Compound 1)
A solution of D-Leucine (5 g) and potassium bromide (114 g) in 400 ml of 2.5 N H2SO4 was cooled to -5° C. in an ice salt bath. A cold solution of NANO2 (30 g/70 ml water, 0°-50° C.) was added dropwise with stirring. The reaction was allowed to proceed for ~14 hours at room temperature. The reaction was then extracted with 75 ml portions of ether three times. The ether extract was dried over anhydrous sodium sulfate. The solution was filtered and the ether was evaporated. The resulting clear oil, 2-bromo-4-methylpentanoic acid (Martin and Greco, (1968) J. Org. Chem. 33, 1275-1276) (18 g) was committed to a 250 ml solution of 33% sodium trithiocarbonate with stirring at 0° C. The reaction was stirred for 48 hrs and then acidified at 0° C. with judicious addition of 10N H2SO4. The acidified solution was then extracted with 75 ml portions of ether three times. The ether extracts were dried over anhydrous sodium sulfate, and subsequently the ether was removed in vacuo. The resulting yellowish oil (17 g) was vacuum distilled. The final yield was 15.3 g of (S)-2-mercapto-4-methylpentanoic acid; b.p. 92-93 (0.75 mmHg); [α]D 25=-23.2 (cl,MeOH).

reactant | D-Leucine | 5 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
reactant | potassium bromide | 114 g | [Br-].[K+]
reactant | water | 70 ml | O | H2O
reactant | H2SO4 | 2.5 N, 400 ml | OS(=O)(=O)O | H2O4S
product | 2-Mercapto-4-Methylpentanoic Acid | SC(C(=O)O)CC(C)C | C6H12O2S
